US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-[(1H)-indol-5-yl]-4-pyrimidineamine and 3-hydroxyaniline were reacted to provide 5-fluoro-N2-(3-hydroxyphenyl)-N4-[(1H)-indol-5-yl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 11.13 (s, 1H), 10.25 (bs, 1H), 9.87 (bs, 1H), 9.43 (bs, 1H), 8.16 (d, 1H, J=5.1 Hz), 7.89 (d, 1H, J=0.09 Hz), 7.39–7.27 (m, 3H), 7.03–6.94 (m, 2H), 6.83 (s, 1H), 6.48 (d, 1H, J=7.5 Hz), 6.40 (t, 1H, J=2.1 Hz); LCMS: purity: 92%; MS (m/e): 336(MH+).

reactant | 2-chloro-5-fluoro-N4-[(1H)-indol-5-yl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C=C2C=CNC2=CC1)F | C12H8ClFN4
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | 5-fluoro-N2-(3-hydroxyphenyl)-N4-[(1H)-indol-5-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NC=1C=C2C=CNC2=CC1 | C18H14FN5O
